Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8],7.69247268977
[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.94065583101
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.7454454993900002
[C:5]([H:6])#[C:9][H:10].[H:1][C:2][O:3][C:4]#[C:7][H:8]>>[H:1][C:2][O:3][C:4](=[C:5][H:6])[C:7]([H:8])=[C:9][H:10],0.427497951841
[C:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-5.06925703871
[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9]>>[H:1][O:2][C:3]([C:4]([H:5])[C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.90979167614
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1].[O:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],1.35567300437
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.5543832766
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],6.105441978330001
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[O:2],3.30912305868
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][O:3][H:4],4.19527882547
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1[C:10][O:11]1>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][O:11],-2.2193766713900005
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][O:4][H:5],5.39098941
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-2.2798324681
[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3],4.96054256424
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1],3.5596870809800003
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:4][H:5],2.9159234468799995
[C:1]#[C:2][C@:3]([H:4])([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1](/[C:2](=[C:5]/[O:6][H:7])[H:10])([H:4])([H:9])[H:11].[C:3]#[C:8],3.72658919652
[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([O:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9],-2.3941642679400004
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.987493637119999
[H:1].[O:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.60217430495
[C:3]([O:4][H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.11569715209
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.84646770499
[C:3]([H:4])[H:5].[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.4335070959500005
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.56105305703
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12]>>[C:1]#[C:2][C:7]([H:8])([H:9])[O:10][O:11][H:12].[C:3]([H:4])([H:5])[H:6],3.6252480672
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-3.7581024053300007
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],4.48877109065
